US06114532
a. 2-methylamino-5-nitro-aniline
12.5 g (0.079 mol) of 2-fluoro-5-nitroaniline and 100 ml methylamine (40% in water) are stirred for 48 hours at ambient temperature. The precipitated product is diluted with water, suction filtered, washed and dried.

reactant | 2-fluoro-5-nitroaniline | 0.079 mol, 12.5 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | methylamine | 100 ml | CN | CH5N
solvent | water | O | H2O
product | 2-methylamino-5-nitro-aniline | CNC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H9N3O2
